US07572809B2
Similar procedure as described in example 10 was used, starting from (1-Chloro-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and 2-propanol to give (1-Isopropoxy-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 297(MH+).

reactant | (1-Chloro-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=C(C=CC=C12)C)NC1=NNC(=C1)C | C14H13ClN4
reactant | 2-propanol | CC(C)O | C3H8O
product | (1-Isopropoxy-5-methyl-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)(C)OC1=NC(=CC2=C(C=CC=C12)C)NC1=NNC(=C1)C | C17H20N4O
